US07091353B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-trifluoromethyl-benzamide I-58
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2 mmol) in THF (30 ml) was added 3-trifluoromethylbenzoyl chloride (0.60 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid that was slurried in diethyl ether (20 ml) and filtered to give 0.41 g (46%) of product as an off-white solid: mp 257–259° C.; 1H NMR (DMSO-d6) d 10.86 (s, 1H), 10.45 (s, 1H), 8.50 (d, J=8.5 Hz, 1H), 8.24–8.25 (m, 2H), 8.02–7.82 (m, 3H), 7.69 (d, J=7.3 Hz, 1H), 5.14 (dd, J=5.7 and 12.8 Hz, 1H), 2.95–2.82 (m, 1H), 2.67–2.48 (m, 2H), 2.14–2.07 (m, 1H); 13C NMR (DMSO-d6) d 171.75, 168.80, 167.31, 166.06, 163.43, 135.80, 135.60, 134.28, 131.16, 130.71, 129.75, 128.35, 128.29, 126.63, 123.59, 123.52, 118.65, 118.55, 48.84, 30.51, 21.62; Anal. Calcd. For C21H14F3N3O5: C, 56.64; H, 3.17; N, 9.44. Found: C, 56.48; H, 3.15; N, 9.41.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 3-trifluoromethylbenzoyl chloride | 4 mmol, 0.60 ml | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-3-trifluoromethyl-benzamide | 0.41 g, 46% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=O | C21H14F3N3O5
